US05709911
First, 9.3 g of 1-[trans-4-(3-hydroxypropyl)cyclohexyl]-2,3-difluorobenzene, 4.1 g of triethylamine, and 100 ml of dry tetrahydrofuran were placed in a 200 ml flask. Then, 3.6 g of acryloyl chloride was added dropwise to the reaction mixture under ice water cooling. The reaction mixture was allowed to warm to room temperature and stirred overnight. Water was added to the reaction mixture, and an organic layer was extracted with ether. The ether layer was washed with water and dried over anhydrous sodium sulfate. Thereafter, the solvent was distilled away. The residue was purified by silica gel column chromatography (eluent: benzene/hexane=2/3) and recrystallized from hexane to obtain 6 g of 1-[trans-4-(3-propenyloxypropyl)cyclohexyl]-2,3-difluorobenzene (Y: 53%). The compound thus obtained had a purity of 99.8% by GC, 100% by HPLC, and of 1 spot by TLC. Furthermore, the compound had an m.p. of 35.5° C. to 36.9° C.

reactant | 1-[trans-4-(3-hydroxypropyl)cyclohexyl]-2,3-difluorobenzene | 9.3 g | OCCC[C@@H]1CC[C@H](CC1)C1=C(C(=CC=C1)F)F | C15H20F2O
reactant | triethylamine | 4.1 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | acryloyl chloride | 3.6 g | C(C=C)(=O)Cl | C3H3ClO
solvent | Water | O | H2O
product | 1-[trans-4-(3-propenyloxypropyl)cyclohexyl]-2,3-difluorobenzene | 6 g, 53% | C(=CC)OCCC[C@@H]1CC[C@H](CC1)C1=C(C(=CC=C1)F)F | C18H24F2O
